US07713982B2
a) 8-chloro-7-(2-propen-1-yl)-3-propyl-3,7-dihydro-1H-purine-2,6-dione
A mixture of 8-chloro-7-(2-propen-1-yl)-3,7-dihydro-1H-purine-2,6-dione (1.5 g, 6.6 mmol), 1-iodopropane (1.2 g, 6.9 mmol) and sodium carbonate (0.9 g, 8.5 mmol) in DMF (40 ml) was heated at 50° C. for 18 hours. The reaction mixture was concentrated in vacuo and the residue treated with water (60 ml) and extracted with ethyl acetate (3×80 ml). The combined organic extracts were dried (MgSO4) filtered and evaporated. The residue was triturated with ether/cyclohexane, the solid was filtered off and dried to afford the title compound (0.82 g, 46%); m/z 269.1 [MH+].

reactant | 8-chloro-7-(2-propen-1-yl)-3,7-dihydro-1H-purine-2,6-dione | 6.6 mmol, 1.5 g | ClC1=NC=2NC(NC(C2N1CC=C)=O)=O | C8H7ClN4O2
reactant | 1-iodopropane | 6.9 mmol, 1.2 g | ICCC | C3H7I
reactant | sodium carbonate | 8.5 mmol, 0.9 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | 8-chloro-7-(2-propen-1-yl)-3-propyl-3,7-dihydro-1H-purine-2,6-dione | 0.82 g, 46% | ClC1=NC=2N(C(NC(C2N1CC=C)=O)=O)CCC | C11H13ClN4O2
